US04729953
Into the same flask as used in Example 1, dl-3-hydroxy-2,3-dimethyl-4-cyclopentenone (12.6 g), p-toluenesulfonic acid (0.5 g) and acetic anhydride (30 g) were charged, and the resultant mixture was stirred at 80°-100° C. for 3 hours. After completion of the reaction, the reaction mixture was subjected to the same work-up as in Example 2 to give 16.2 g of dl-3-acetoxy-2,3-dimethyl-4-cyclopentenone. Yield, 96.5%. B.P., 52°-55° C./0.4-0.5 mmHg).

reactant | 3-hydroxy-2,3-dimethyl-4-cyclopentenone | 12.6 g | OC1(C(C(C=C1)=O)C)C | C7H10O2
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 30 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetoxy-2,3-dimethyl-4-cyclopentenone | C(C)(=O)OC1(C(C(C=C1)=O)C)C | C9H12O3
